US08372874B2
Step 1: Synthesis of N-{3-[2-(4-Methoxy-benzylamino)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide
To a solution of N-[3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide (130 mg, 0.35 mmol) in THF (2 mL) is added 4-methoxybenzylamine (0.055 mL, 0.42 mmol) and 2.7 mmol/g of MP-triacetoxyborohydride (323 mg, 0.87 mmol). The reaction mixture is placed on a shaker for 18 h. After this time, the reaction mixture is filtered and the filtrate is concentrated under reduced pressure. Purification by flash chromatography on silica gel using methanol/DCM provides the title compound. Yield: 83%; LC-MS retention time: 1.23 mins. ESI+ion mode. Zorbax SB-C18 column (3.5 μm, 4.6×30 mm). Gradient: 5% B to 80% B (0 min to 1.7 mins), 80% B to 95% B (1.7 mins to 2 mins), 95% B to 95% B (2 mins to 2.1 mins). Flow rate: 2.5 mL/min. A=(Water+0.1% Formic Acid) B=(Acetonitrile+0.1% Formic Acid). Diode Array Detector; m/z 494 [M+H].

reactant | N-[3-(1,1-dimethyl-2-oxo-ethyl)-isoxazol-5-yl]-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 0.35 mmol, 130 mg | CC(C=O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H24N2O6S
reactant | 4-methoxybenzylamine | 0.42 mmol, 0.055 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | triacetoxyborohydride | 0.87 mmol, 323 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{3-[2-(4-Methoxy-benzylamino)-1,1-dimethyl-ethyl]-isoxazol-5-yl}-2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | Yield: 83% | COC1=CC=C(CNCC(C)(C)C2=NOC(=C2)NC(C(C)(S(=O)(=O)C2CCOCC2)C)=O)C=C1 | C24H35N3O6S
